US07470723B2
To a stirred solution of (4-dimethylamino-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanol (1.29 g, 4.3 mmol) in CH2Cl2 (30 mL) at room temperature was added activated MnO2 powder (2.1 g, 24 mmol) and kept adding 2˜3 equivalents of MnO2 every 3˜5 h until HPLC showed disappearance of the starting material. The black suspension was filtered through a Celite pad, concentrated in vacuo to give (4-dimethylamino-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanone as an brown oil (0.22 g, 17% yield): 1H NMR (CDCl3) δ 1.48 (t, J=7 Hz, 3H, CH2CH3), 3.08 (s, 6H, N(CH3)2), 3.95 (s, 3H, OCH3), 4.16 (q, J=7 Hz, 2H, CH2CH3), 6.67-6.71 (m, 2H, Ar), 6.88-6.92 (m, 1H, Ar), 7.34-7.39 (m, 2H, Ar), 7.77-7.80 (m, 2H, Ar). The product was used in the next step without further purification.

reactant | (4-dimethylamino-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanol | 4.3 mmol, 1.29 g | CN(C1=CC=C(C=C1)C(O)C1=CC(=C(C=C1)OC)OCC)C | C18H23NO3
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 24 mmol, 2.1 g | O=[Mn]=O
catalyst | MnO2 | 2˜3 equivalents | O=[Mn]=O
product | (4-dimethylamino-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanone | 0.22 g, 17% yield | CN(C1=CC=C(C=C1)C(=O)C1=CC(=C(C=C1)OC)OCC)C | C18H21NO3
